US06605618B2
1-{4-[4-(4-{2-[(2S)-3-(4-Fluoro-phenoxy)-2-hydroxy-propylamino]-ethyl}-phenylamino)-piperidine-1-sulfonyl]-phenyl}-3-hexyl-urea
N-[4-({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}sulfonyl)phenyl]-N-hexylurea formate (0.20 g 0.365 mmol) was reacted with (2S)-2-[(4-fluorophenoxy)methyl]oxirane (0.061 mL, 0.365 mmol) according to Procedure G to give the title compound (0.078 g, 0.116 mmol).

reactant | N-[4-({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}sulfonyl)phenyl]-N-hexylurea formate | 0.365 mmol, 0.20 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)S(=O)(=O)C2=CC=C(C=C2)N(C(=O)N)CCCCCC)C=C1
reactant | (2S)-2-[(4-fluorophenoxy)methyl]oxirane | 0.365 mmol, 0.061 mL | FC1=CC=C(OC[C@H]2OC2)C=C1 | C9H9FO2
product | 1-{4-[4-(4-{2-[(2S)-3-(4-Fluoro-phenoxy)-2-hydroxy-propylamino]-ethyl}-phenylamino)-piperidine-1-sulfonyl]-phenyl}-3-hexyl-urea | 0.116 mmol, 0.078 g | FC1=CC=C(OC[C@H](CNCCC2=CC=C(C=C2)NC2CCN(CC2)S(=O)(=O)C2=CC=C(C=C2)NC(=O)NCCCCCC)O)C=C1 | C35H48FN5O5S
